US08445510B2
1-{[(4R)-2,2-Dimethyl-1,3-dioxolan-4-yl]methyl}-4-iodo-3,5-dimethyl-1H-pyrazole
A mixture of 3,5-dimethyl-4-iodopyrazole (200.0 mg, 0.9008 mmol), ((4S)-2,2-dimethyl-1,3-dioxolan-4-yl)methyl 4-methylbenzenesulfonate (515.9 mg, 1.802 mmol), K2CO3 (136.9 mg, 0.9909 mmol), 1,4,7,10,13,16-hexaoxacyclooctadecane (23.81 mg, 0.09008 mmol) and DMF (4 mL, 50 mmol) was heated to 70° C. overnight. The material was extracted in EtOAc, and washed with water (3×). The organic layer was dry-loaded onto silica gel for column chromatography, eluting with 20-30% EtOAc/hexanes. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid.

reactant | 3,5-dimethyl-4-iodopyrazole | 0.9008 mmol, 200.0 mg | CC1=NNC(=C1I)C | C5H7IN2
reactant | ((4S)-2,2-dimethyl-1,3-dioxolan-4-yl)methyl 4-methylbenzenesulfonate | 1.802 mmol, 515.9 mg | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1OC(OC1)(C)C | C13H18O5S
reactant | K2CO3 | 0.9909 mmol, 136.9 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4,7,10,13,16-hexaoxacyclooctadecane | 0.09008 mmol, 23.81 mg | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
reactant | DMF | 50 mmol, 4 mL | CN(C)C=O | C3H7NO
product | 1-{[(4R)-2,2-Dimethyl-1,3-dioxolan-4-yl]methyl}-4-iodo-3,5-dimethyl-1H-pyrazole | CC1(OC[C@H](O1)CN1N=C(C(=C1C)I)C)C | C11H17IN2O2
